US05185448
1-Benzyloxypiperidin-4-yl Stearate
The general procedure of Example 1 is repeated using 1-hydroxypiperidin-4-yl stearate, poassium carbonate and benzyl bromide in ethanol solvent to give the title compound.

reactant | 1-hydroxypiperidin-4-yl stearate | C(CCCCCCCCCCCCCCCCC)(=O)OC1CCN(CC1)O | C23H45NO3
reactant | carbonate | C([O-])([O-])=O
reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
solvent | ethanol | C(C)O | C2H6O
product | 1-Benzyloxypiperidin-4-yl Stearate | C(CCCCCCCCCCCCCCCCC)(=O)OC1CCN(CC1)OCC1=CC=CC=C1 | C30H51NO3
